US05763450
13bh) A mixture of 2.64 g of 2-hydroxy-5-iodo-benzoic acid, 0.69 g of cyclopropylamine and 3.65 g of carbon tetrabromide in 40 ml of methylene chloride is treated portionwise at room temperature with 2.62 g of triphenylphosphine. After 2 hrs. the mixture is filtered and the filtrate is concentrated. Chromatography on silica gel with ethyl acetate/cyclohexane 1:4 gives 550 mg of crude N-cyclopropyl-2-hydroxy-5-iodo-benzamide. Yield: 18%.

reactant | 2-hydroxy-5-iodo-benzoic acid | 2.64 g | OC1=C(C(=O)O)C=C(C=C1)I | C7H5IO3
reactant | cyclopropylamine | 0.69 g | C1(CC1)N | C3H7N
reactant | carbon tetrabromide | 3.65 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-2-hydroxy-5-iodo-benzamide | 550 mg, Yield: 18% | C1(CC1)NC(C1=C(C=CC(=C1)I)O)=O | C10H10INO2
